US07125901B2
Ethyl 3-bromo-2-oxo-4-phenylbutanoate (5.8 g) was dissolved in EtOH (110 ml), and then thiourea (3.1 g) was added to the solution. The reaction mixture was refluxed for 2 hours under N2 atmosphere. The cooled reaction mixture was evaporated in vacuo. The residual solid was suspended (pH=8) in saturated NaHCO3 and water. The solid was collected by filtration, and purified by flash column chromatography over silica gel with CHCl3/MeOH (10:1) as an eluent to give ethyl 2-amino-5-benzyl-1,3-thiazole-4-carboxylate (808.2 mg) as a yellow wax.

reactant | Ethyl 3-bromo-2-oxo-4-phenylbutanoate | 5.8 g | BrC(C(C(=O)OCC)=O)CC1=CC=CC=C1 | C12H13BrO3
reactant | thiourea | 3.1 g | NC(=S)N | CH4N2S
solvent | EtOH | 110 ml | CCO | C2H6O
product | ethyl 2-amino-5-benzyl-1,3-thiazole-4-carboxylate | 808.2 mg | NC=1SC(=C(N1)C(=O)OCC)CC1=CC=CC=C1 | C13H14N2O2S
